.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100
 
* input coupling capacitor
Ci in2 base 16.25u

* bias circuit
R1 vcc base 85k
R2 base 0 20k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 700
Re emit 0 200

* bypass capacitor
Cb emit 0 5m


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 200

* output coupling capacitor
Co emit2 out 3m

* load
RL out 0 8

.op
.end

.control
op
echo "op_TAB"
print v(coll)-v(emit)
print v(base)-v(emit)
print v(emit2)
print v(emit2)-v(coll)
echo "op_END"


* time analysis
*tran 1e-5 1e-2
*plot v(coll)
*hardcopy vo1.ps vdb(coll)


* frequency analysis
ac dec 10 10 100MEG
plot vdb(coll)
plot vp(coll)
hardcopy vo1f.ps vdb(coll)



plot vdb(out)
plot vp(out)
hardcopy vo2f.ps vdb(out)
echo vo2f_FIG

meas AC maximo MAX vdb(out) from=10 to=100MEG
let range = maximo - 3

meas AC inf WHEN vdb(out) = range
meas AC sup WHEN vdb(out) = range CROSS=LAST

let bandwidth = sup-inf
let gain = 10^(maximo/20)
let gain_DB = maximo
let CO_Freq= inf
let qualidade = bandwidth*gain/CO_Freq

echo "spice_results_TAB"
echo "V Gain = $&gain "
echo "Gain DB = $&gain_DB dB "
echo "Bandwidth = $&bandwidth Hz "
echo "CO Freq = $&CO_Freq Hz "
echo "spice_results_END"



*input impedance in kohm
let zin = -v(in2)[40]/vin#branch[40]

echo "op_in_TAB"
echo "Zin = $&zin Ohm "
echo "op_in_END"

plot abs(v(in2)[40]/vin#branch[40]/(-1000))

let custo = 8122.45
let merito = qualidade/custo


echo "merito_TAB"
echo "Cost = $&custo "
echo "Quality = $&qualidade "
echo "Merit = $&merito "
echo "merito_END"


*need a different setup to measure output impedance

quit
.endc 

